Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Statins-Hmg-Coa Reductase Inhibitors / metoprolol
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with afib on xarelto and 
nightly ETOH use, transferred from OSH after mechanical fall in 
kitchen earlier in the evening around 930pm. Husband explained 
that the patient was face down, had a nose bleed, and was not 
awake initially. She regained consciousness at home. When she 
woke, she was initially confused and agitated and refusing to go 
with EMS for 30 minutes, GCS 14 at that time. HR 130's, BP 
190's. He did not witness the fall. Supposedly she had been 
walking independently in the dark from the living room to the 
kitchen to take her nightly medications.

It was noted initially that she drinks about a 10+ ounce goblet 
of white wine nightly and that she has been doing this for some 
time. Her husband is concerned about her alcohol use. Her ETOH 
at the OSH was 235. Initial CT head, cspine, and max/face were 
completed at OSH. Per report injuries include R frontal scalp 
hematoma, R anterior frontal SDH, nasal bone tip fracture, and R 
1st rib fracture. She was transferred to ___ for trauma and 
neurosurgery evaluation.

On evaluation at ___, she was AAOx3, GCS 15, amnestic to 
falling but does recalls arguing with EMS about going to the 
hospital. She had a right sided headache and was complaining of 
right anterior chest wall pain, worse with movement and 
inspiration and she has spinal tenderness in the T and L spine.

 
Past Medical History:
afib on xarelto, moderate aortic insufficiency, HTN, HL,
osteoarthritis in shoulders, neck, back, knees, recent cortisone
injection in knees 

bilateral shoulder surgeries
 
Social History:
___
Family History:
EtOHism
 
Physical Exam:
Admission Physical Exam: 
98.6, 86, 145/68, 15, 98RA
General: nontoxic, NAD AAOx3, GCS 15
HEENT: R forehead and eye ecchymoses and swelling with 
tenderness to palpation, EOMI, pupils equal round and reactive 
to light dried blood in bilateral nares, no blood in the ear 
canals, midface stable
NECK/Chest: no clavicular or sternal tenderness, cspine exam - 
near full ROM without pain, minimal TTP cspine: patient states 
is chronic and resolved on repeat exam, ccollar cleared at OSH 
with negative CT scan, significant right sided anterior chest 
wall tenderness throughout and radiating into RUQ
Pulm: CTA ___
Cor: RRR
Abdomen: soft nondistended, minimal RUQ tenderness appears to be 
referred from right chest wall, pelvis is stable
Ext: bilateral upper extremity and lower extremity exams within 
normal limits
thoracic and lumbar spinal tenderness to palpation

Discharge Physical Exam:
97.9, 88, 121/65, 18, 95 RA
General: nontoxic, NAD, AAOx3, GCS 15
HEENT: R forehead and eye ecchymoses improved, less tender; 
EOMI, PERRLA, no hemotympanum b/l
NECK/Chest: Ful ROM - minimally tender; right sided anterior 
chest wall tenderness throughout and radiating into RUQ
Pulm: CTA ___
Cor: RRR
Abdomen: soft, ND, NTTP, no rebound
Ext: MAE/WWP/No CCE
 
Pertinent Results:
___ 06:55PM   GLUCOSE-107* UREA N-9 CREAT-0.7 SODIUM-127* 
POTASSIUM-3.8 CHLORIDE-89* TOTAL CO2-23 ANION GAP-19
___ 06:55PM   estGFR-Using this
___ 06:55PM   LIPASE-27
___ 06:55PM   CALCIUM-8.8 PHOSPHATE-2.9 MAGNESIUM-2.0
___ 06:55PM   WBC-9.3# RBC-4.26 HGB-13.7 HCT-38.7 MCV-91 
MCH-32.2* MCHC-35.4 RDW-13.8 RDWSD-45.7
___:55PM   PLT COUNT-215
___ 04:54AM BLOOD WBC-6.6 RBC-4.19 Hgb-13.0 Hct-38.0 MCV-91 
MCH-31.0 MCHC-34.2 RDW-13.6 RDWSD-45.1 Plt ___
___ 04:54AM BLOOD Plt ___
___ 04:54AM BLOOD Glucose-96 UreaN-10 Creat-0.7 Na-128* 
K-3.8 Cl-92* HCO3-23 AnGap-17
___ 06:55PM BLOOD estGFR-Using this
___ 04:54AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.2
___ 04:54AM BLOOD
 
Brief Hospital Course:
The patient presented to the Emergency Department on ___. 
Upon arrival to ED, she underwent a trauma workup that 
discovered a R forehead hematoma, nasal bone fracture, R ___ 
rib fractures, and a chronic T12 compression fracture. Given 
findings, the patient was admitted to ACS for observation of her 
injuries.

Neuro: The patient was alert and oriented throughout 
hospitalization; because of her + headstrike and loss of 
consciousness in conjunction with her prior alcohol abuse and 
concern for SDH, she was watched with q4h neuro checks and was 
put on the CIWA scale for concern over withdrawal; the patient 
did not require treatment for withdrawal while in hospital; pain 
was managed with PO pain meds when she returned to tolerating a 
regular diet. Social work was consulted, but the patient denied 
any post-hospitalization services. ___ evaluated the patient and 
determined that she would be safe for discharge.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: Her diet was advanced sequentially to a Regular diet, 
which was well tolerated. Patient's intake and output were 
closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: ___ dyne boots were used during this stay and was 
encouraged to get up and ambulate as early as possible. The 
patient's rivaroxaban was held while in the hospital to ensure 
stability of any possible intracranial hemorrhage.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
pravastatin 20', xarelto 20', diltiazem 120', valsartan/HCTZ 
160/12.5, welchol 625mg 3 tablets BID

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth dailiy Disp #*30 Tablet Refills:*0 
7.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth q4h prn Disp #*35 Tablet 
Refills:*0 
8.  Diltiazem Extended-Release 120 mg PO DAILY  
9.  Hydrochlorothiazide 12.5 mg PO DAILY  
10.  Pravastatin 20 mg PO QPM  
11.  Valsartan 160 mg PO DAILY  
12.Outpatient Lab Work
Chem 10 (Na, K, Cl, HCO3, BUN, Cr, Glu, Ca, Mg, PO4) to be drawn 
___. Results to be faxed to Dr. ___ 
(___)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R forehead hematoma
nasal bone fracture
R posterior 1st rib fracture
R anterolateral ___ rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused three rib fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain. Additionally, you have a fractured nasal bone that 
may cause swelling and bloody discharge.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke or drink alcohol
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___